US06716851B2
4-(5-Chloro-2-methyl-pyrimidin-4-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 4-amino-5-chloro-2-methylpyrimidine (42 mg, 0.288 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.58 (d, J=1.5 Hz, 1H), 8.72-8.65 (m, 2H), 7.42 (dd, J=6, 5.1 Hz, 1H), 6.70 (s, 1H), 5.32 (s, 2H), 1.70 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4-amino-5-chloro-2-methylpyrimidine | 0.288 mmol, 42 mg | NC1=NC(=NC=C1Cl)C | C5H6ClN3
product | 4-(5-Chloro-2-methyl-pyrimidin-4-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | ClC=1C(=NC(=NC1)C)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C15H10ClF3N6
